US05961954
S-(2-mercaptoethyl)-N-(2-mercapto-1(decyloxycarbonyl)-ethyl)-mercaptoacetamide
13.42 g (0.1 mol) of 2,5-dithia cyclohexanone dissolved in 250 ml of anhydrous dichloromethane are added by dropping, and in an argon atmosphere, to a solution of 29.79 g (0.1 mol) of cysteine decyl ester hydrochloride and 10.12 g (0.1 mol) of triethyl amine in 500 ml of anhydrous dichloromethane. The reaction mixture is kept agitated overnight at room temperature and then washed three times with 2% aqueous citric acid, saturated sodium hydrogencarbonate solution and with water. After drying above sodium sulfate, the solvent is evaporated under reduced pressure. The oily residue is crystallized by trituration with diethyl ether.

reactant | 2,5-dithia cyclohexanone | 0.1 mol, 13.42 g | C1(SCCSC1)=O | C4H6OS2
reactant | cysteine decyl ester hydrochloride | 0.1 mol, 29.79 g | Cl.C(CCCCCCCCC)OC([C@@H](N)CS)=O
reactant | triethyl amine | 0.1 mol, 10.12 g | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 250 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 500 ml | ClCCl | CH2Cl2
product | S-(2-mercaptoethyl)-N-(2-mercapto-1(decyloxycarbonyl)-ethyl)-mercaptoacetamide | SCCSCC(=O)NC(CS)C(=O)OCCCCCCCCCC | C17H33NO3S3
